datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2:10])CC[C@]4(C)[C@H]3CC[C@]12C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@H](O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H]([NH2+:10][H:20])CC[C@]4(C)[C@H]3CC[C@]12C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CC(c2nnn[n-]2)[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CC(c2nnn[n-]2)[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)C1=CC=CC(=O)C([O:21][H:20])=C1.CC1(C)CC(=O)C(C)(C)[NH:10]1>>CC(C)C1=CC=CC(=O)C([O-:21])=C1.CC1(C)CC(=O)C(C)(C)[NH+:10]1[H:20] 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:21][H:20].c1nc(C[S-:10])c[nH]1>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:21].c1nc(C[S:10][H:20])c[nH]1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCN(CCCCCCCCCCCCCCCC)C(=O)[C@H](C)NC(=O)[C@H](Cc1c[nH]c[n+:21]1[H:20])NC(=O)CCCCC[N+](C)(C)C.C[NH+](C)CCC[N:10]=C(c1ccccc1)c1ccccc1.[Br-]>>CCCCCCCCCCCCCCCCN(CCCCCCCCCCCCCCCC)C(=O)[C@H](C)NC(=O)[C@H](Cc1c[nH]c[n:21]1)NC(=O)CCCCC[N+](C)(C)C.C[NH+](C)CCC[N+:10](=C(c1ccccc1)c1ccccc1)[H:20].[Br-] 10=20;20,21=21",
"CN(C)C(C)(O)[OH+:21][H:20].NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH:10])n1>>CN(C)C(C)(O)[OH:21].NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH+:10][H:20])n1 10=20;20,21=21",
"Cc1[nH][n+:21]([H:20])c(O)c1C(C)C.O=C(/C=C/c1ccc(O)cc1)[O-:10]>>Cc1[nH][n:21]c(O)c1C(C)C.O=C(/C=C/c1ccc(O)cc1)[O:10][H:20] 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(F)ccc1[O-:10].Cc1ccc([NH2+:21][H:20])cc1C>>CC[NH+](CC)Cc1cc(F)ccc1[O:10][H:20].Cc1ccc([NH2:21])cc1C 10=20;20,21=21",
"CC[S+:21](C(O)(O)C(F)(F)F)[H:20].O=C(CCP)[O-:10]>>CC[S:21]C(O)(O)C(F)(F)F.O=C(CCP)[O:10][H:20] 10=20;20,21=21",
"COc1cccc(C=O)c1[O:21][H:20].Cc1cc(C(c2ccc(N)cc2)c2ccc([NH2:10])cc2)ccc1[NH3+]>>COc1cccc(C=O)c1[O-:21].Cc1cc(C(c2ccc(N)cc2)c2ccc([NH2+:10][H:20])cc2)ccc1[NH3+] 10=20;20,21=21",
"CC(c1ccccc1)[NH2:10].Cc1cc(C=O)c([O:21][H:20])c(C=O)c1>>CC(c1ccccc1)[NH2+:10][H:20].Cc1cc(C=O)c([O-:21])c(C=O)c1 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.C1=C(C=C(C(=C1)[CH-:10]C#N)[N+](=O)[O-])C#N>>[H:20][CH:10](C#N)C1=CC=C(C=C1[N+](=O)[O-])C#N.C1COCC[NH:21]1 10=20;20,21=21",
"C[C@H](CCC[NH+:21](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.Oc1ccc2c[n:10]ncc2c1>>C[C@H](CCC[NH:21]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.Oc1ccc2c[n+:10]([H:20])ncc2c1 10=20;20,21=21",
"CC(C)(S)C(C(=O)[O:21][H:20])n1cc[nH+]c1Cc1ccccc1.Ic1cc(I)c2cccnc2c1[O-:10]>>CC(C)(S)C(C(=O)[O-:21])n1cc[nH+]c1Cc1ccccc1.Ic1cc(I)c2cccnc2c1[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(CCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20].Nc1cnc2ccccc2[n:10]1>>C[N:21](C)CCCC(=O)Oc1cccc([N+](=O)[O-])c1.Nc1cnc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"N#Cc1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1.O=C(C1Cc2ccccc2O1)[O:21][H:20]>>N#Cc1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1.O=C(C1Cc2ccccc2O1)[O-:21] 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:21][H:20].CNc1nc(C)[n:10]c2c1cnn2C>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:21].CNc1nc(C)[n+:10]([H:20])c2c1cnn2C 10=20;20,21=21",
"C#CCCCCCC[NH2:10].CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C#CCCCCCC[NH2+:10][H:20].CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC=C2)[H:20])C=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC=C2)C=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"C#CC(C)(C)[N+:21](CC)(C(C)(C)C)[H:20].Cc1cc2ccccc2[n:10]c1C>>C#CC(C)(C)[N:21](CC)C(C)(C)C.Cc1cc2ccccc2[n+:10]([H:20])c1C 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cc1ccc(C[NH2:10])cc1N>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cc1ccc(C[NH2+:10][H:20])cc1N 10=20;20,21=21",
"CCC[NH+](CCC)CCCNC(=O)/C=N/[O-:10].CCC[NH+](CCC)CC[S:21][H:20]>>CCC[NH+](CCC)CCCNC(=O)/C=N/[O:10][H:20].CCC[NH+](CCC)CC[S-:21] 10=20;20,21=21",
"O=C([O-])c1ccc([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1ccc([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(c1cc([N+](=O)[O-])cs1)[O:21][H:20].O[C@H]1[C@H](O)[C@@H](n2c[n:10]c3ccccc32)OC[C@@H]1O>>O=C(c1cc([N+](=O)[O-])cs1)[O-:21].O[C@H]1[C@H](O)[C@@H](n2c[n+:10]([H:20])c3ccccc32)OC[C@@H]1O 10=20;20,21=21",
"C(=C/C[N:10]1CCCCC1)\C[NH+]1CCCCC1.CSc1cccc([NH2+:21][H:20])c1>>C(=C/C[N+:10]1([H:20])CCCCC1)\C[NH+]1CCCCC1.CSc1cccc([NH2:21])c1 10=20;20,21=21",
"CC[NH:10]CC(=O)c1ccc(O)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](CC(=O)c1ccc(O)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1nc2c([O:21][H:20])ccc(O)c2n1C.Cc1nc2c(n1C)[N-:10]C(=O)NC2=O>>Cc1nc2c([O-:21])ccc(O)c2n1C.Cc1nc2c(n1C)[N:10]([H:20])C(=O)NC2=O 10=20;20,21=21",
"COc1ccc([O-:10])cc1[N+](=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc([O:10][H:20])cc1[N+](=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
